US07528147B2
4-Chloro-2-{1-methyl-5-methoxy-6-[2-(4-piperidylpiperidin-1-yl)ethoxy]-1H-indol-3-yl}-1H-pyrrolo[2,3-b]pyridine is prepared by following the procedure described in example 89a, but using 0.41 g of 4-chloro-2-[1-methyl-5-methoxy-6-(2-(4-piperidylpiperidin-1-yl)ethoxy)-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine and 2.73 ml of a 5N aqueous potassium hydroxide solution. 0.272 g of 4-chloro-2-{5-methoxy-1-methyl-6-[2-(4-piperidylpiperidin-1-yl)ethoxy]-1H-indol-3-yl}-1H-pyrrolo[2,3-b]pyridine is obtained, the characteristics of which are as follows:

reactant | 4-chloro-2-[1-methyl-5-methoxy-6-(2-(4-piperidylpiperidin-1-yl)ethoxy)-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.41 g | ClC1=C2C(=NC=C1)N(C(=C2)C2=CN(C1=CC(=C(C=C21)OC)OCCN2C(CCCC2)C2CCNCC2)C)S(=O)(=O)C2=CC=C(C=C2)C | C36H42ClN5O4S
reactant | potassium hydroxide | 5N | [OH-].[K+]
product | 4-chloro-2-{5-methoxy-1-methyl-6-[2-(4-piperidylpiperidin-1-yl)ethoxy]-1H-indol-3-yl}-1H-pyrrolo[2,3-b]pyridine | 0.272 g | ClC1=C2C(=NC=C1)NC(=C2)C2=CN(C1=CC(=C(C=C21)OC)OCCN2C(CCCC2)C2CCNCC2)C | C29H36ClN5O2
